US06479536B1
2-[3-(4-Fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]isoindoline
By using 2-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione, the title compound was synthesized according to Example 2a. Yield: 55%. Melting point: 204-205° C. (Ethyl acetate)

reactant | 2-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione | FC1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N2C(C1=CC=CC=C1C2=O)=O)C)(C)C | C27H24FNO3
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(4-Fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]isoindoline | Yield: 55% | FC1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N2CC1=CC=CC=C1C2)C)(C)C | C27H28FNO
